US04036712
36.9 g of methanol was charged into an electrolysis cell according to Example 5, wherein 0.37 g of tetramethyl ammonium tetrafluoroborate were dissolved as conducting salt. After switching on the electrolysis current, the anode current density was 2 A/dm2. The temperature was maintained at 40° C. during the electrolysis. Agitation was performed by a magnetic stirrer at from 30 to 35 revolutions per minute. After the passage of a current quantity of 4.06 Faraday per mole of N-ethylpropionic acid amide, the current was switched off. The calculated average cell tension was 54.9 volts. After work up of the electrolysis solution in known manner there were obtained 24.4 g of N-(α-methoxyethyl)-propionic acid amide (melting point 29°-32° C., nD35 = 1.4333), representing a material efficiency of 80.7% and a current efficiency of 40.4%.

reactant | N-ethylpropionic acid amide | C(C)NC(CC)=O | C5H11NO
reactant | methanol | 36.9 g | CO | CH4O
catalyst | tetramethyl ammonium tetrafluoroborate | 0.37 g | F[B-](F)(F)F.C[N+](C)(C)C
product | N-(α-methoxyethyl)-propionic acid amide | 24.4 g | COC(C)NC(CC)=O | C6H13NO2
